US06331640B1
A mixture of N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]-6-methylbenzoyl]-3[(thiophene-2-carbonyl)amino]-L-alanine, methyl ester (2.06 g, 3.9 mmol) in methanol (100 mL) and sodium hydroxide (0.31 g, 7.8 mmol) in water (2 mL) was stirred at room temperature overnight and then the solvents were evaporated. The residue was partitioned between water and ethyl acetate and the ethyl acetate layer was discarded. The aqueous layer was poured into 2 M HCl, and extracted twice with ethyl acetate. The combined organic extracts were washed with brine, concentrated, and dried under high vacuum to give N-[2-chloro-4-[[[(3-hydroxyphenyl) methyl]amino]carbonyl]-6-methylbenzoyl]-3-[(thiophene-2-carbonyl)amino]-L-alanine (1.50 g, 75%) as a white solid.

reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]-6-methylbenzoyl]-3[(thiophene-2-carbonyl)amino]-L-alanine, methyl ester | 3.9 mmol, 2.06 g | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)OC)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)O)C | C25H24ClN3O6S
reactant | sodium hydroxide | 7.8 mmol, 0.31 g | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | N-[2-chloro-4-[[[(3-hydroxyphenyl) methyl]amino]carbonyl]-6-methylbenzoyl]-3-[(thiophene-2-carbonyl)amino]-L-alanine | 1.50 g, 75% | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)O)C | C24H22ClN3O6S
